US07060697B2
To a solution of 4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzoic acid methyl ester (83 mg, 0.2062 mmol, 1 eq.) in anhydrous toluene (5 mL) cooled to −78° C. is added DIBAL-H (1 M in toluene, 0.41 mL, 0.41 mmol, 2 eq). The mixture is stirred at −78° C. for 30 min. The reaction is quenched by the addition of saturated aqueous NH4Cl after which point the reaction mixture is allowed to warm to room temperature. The reaction is diluted with EtOAc and washed with 1 N HCl (aq), H2O, and saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (1:1 hexanes/EtOAc) to give [4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-phenyl]-methanol. [MS: (ES+) 397.1 (M+23)+].

reactant | 4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-benzoic acid methyl ester | 0.2062 mmol, 83 mg, 1 eq. | COC(C1=CC=C(C=C1)CSC1=CC(=C(C=C1)C1=CC=CC=C1)C(F)(F)F)=O | C22H17F3O2S
reactant | DIBAL-H | 0.41 mmol, 1 M, 0.41 mL, 2 eq | CC(C)C[AlH]CC(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(2-trifluoromethyl-biphenyl-4-ylsulfanylmethyl)-phenyl]-methanol | FC(C1=C(C=CC(=C1)SCC1=CC=C(C=C1)CO)C1=CC=CC=C1)(F)F | C21H17F3OS
